US07476666B2
Step 1: Ethyl 7-aminocarbonyl-3-benzyloxy-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate
The title compound was prepared from 3-benzyloxy-2-ethoxycarbonyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-7-carboxylic acid using a procedure similar to that described in Example 2, Step 5 except that NH4Cl was used in place of 4-fluorobenzylamine, and the reaction time totaled 18 hours. The mixture was partitioned between EtOAc and saturated aqueous NaHCO3, and the aqueous layer was extracted twice more into EtOAc. The combined organic extracts were dried over Na2SO4, concentrated in vacuo, and azeotroped with toluene to afford the title product as a yellow solid. 1H NMR (400 MHz, d6-DMSO) δ 7.69 (s, 1H), 7.55 (s, 1H), 7.50-7.49 (m, 2H), 7.29-7.32 (m, 3H), 5.19 (dd, J=10.8, 24.4 Hz, 2H), 4.28-4.24 (m, 3H), 4.16 (dd, J=5.2, 13.6 Hz, 1H), 3.86-3.83 (m, 1H), 2.99 (s, 3H), 1.27 (t, J=6.8 Hz, 3H); ES MS (M+H)=373.

reactant | 3-benzyloxy-2-ethoxycarbonyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-7-carboxylic acid | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2C(=O)O)C)=O)C(=O)OCC | C18H19N3O6
reactant | NH4Cl | [NH4+].[Cl-]
product | Ethyl 7-aminocarbonyl-3-benzyloxy-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | NC(=O)C1CN(C(C=2N1N=C(C2OCC2=CC=CC=C2)C(=O)OCC)=O)C | C18H20N4O5
